US07919506B2
Step A: Preparation of tert-butyl 4-[((2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl])(hydroxy)methyl)piperidine-1-carboxylate
To a solution of (3,5-bis-trifluoromethyl-benzyl)-(2-bromo-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine (115 mg, 0.21 mmol) in THF (0.5 mL) at 0° C. was added i-PrMgCl/LiCl (0.3 mL, 0.39 mmol). The mixture was stirred 0° C. for 3 hours and tert-butyl 4-formylpiperidine-1-carboxylate (70.7 mg, 0.33 mmol) in THF (0.1 mL) was added. The mixture was stirred at 0° C. to room temperature for 3 hours and quenched with saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography over 25+S Biotage silica column (eluted with 0-50% ethyl acetate in hexanes) to afford the title compound (62.2 mg, 44%). 1H NMR (400 MHz, CDCl3) δ ppm 1.12-1.19 (m, 1H) 1.20-1.32 (m, 1H) 1.43 (s, 9H) 1.69-1.78 (m, 1H) 1.89 (dd, J=13.07, 1.87 Hz, 1H) 2.46-2.67 (m, 2H) 3.99-4.15 (m, 2H) 4.18 (s, 3H) 4.66-4.73 (m, 2H) 4.68-4.83 (m, 4H) 4.87 (d, J=15.77 Hz, 1H) 7.33 (s, 1H) 7.55 (s, 2H) 7.64 (s, 2H) 7.77 (s, 1H). MS (ES+) Calc: 696.2, Found: 697.6 (M+1)

reactant | (3,5-bis-trifluoromethyl-benzyl)-(2-bromo-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.21 mmol, 115 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)Br)C=C(C1)C(F)(F)F)(F)F | C19H13BrF9N5
reactant | i-PrMgCl LiCl | 0.39 mmol, 0.3 mL | C(C)(C)[Mg]Cl.[Li+].[Cl-]
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 0.33 mmol, 70.7 mg | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.1 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-[((2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl])(hydroxy)methyl)piperidine-1-carboxylate | 62.2 mg, 44% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C2CCN(CC2)C(=O)OC(C)(C)C)O)C=C(C1)C(F)(F)F)(F)F | C30H33F9N6O3
